US09353108B2
L) 6-(1-((6-Cyclopropyl-3-ethoxy-2,4′-difluorobiphenyl-4-yl)methyl)piperidin-4-yl)-2-ethyl-5-oxo-5,6,7,8-tetrahydro-1,6-naphthyridine-3-carboxylic acid
2M aqueous sodium hydroxide solution (20 mL) was added to a solution of methyl 6-(1-((6-cyclopropyl-3-ethoxy-2,4′-difluorobiphenyl-4-yl)methyl)piperidin-4-yl)-2-ethyl-5-oxo-5,6,7,8-tetrahydro-1,6-naphthyridine-3-carboxylate (6.94 g) in methanol (20 mL) at room temperature. The mixture was stirred at 70° C. under nitrogen atmosphere for 2 hours. The mixture was neutralized with 1M hydrochloric acid at room temperature and stirred at 70° C. for 1 hour and at room temperature for 16 hours to give colorless crystals. After filtration, the crystals were dissolved in ethanol. The solution was filtrated and the filtrate was concentrated in vacuo to give a colorless solid. The solid was recrystallized from ethanol-DMSO-water (45 mL-5 mL-130 mL) to give the title compound (6.24 g).

reactant | sodium hydroxide | 2M, 20 mL | [OH-].[Na+]
reactant | methyl 6-(1-((6-cyclopropyl-3-ethoxy-2,4′-difluorobiphenyl-4-yl)methyl)piperidin-4-yl)-2-ethyl-5-oxo-5,6,7,8-tetrahydro-1,6-naphthyridine-3-carboxylate | 6.94 g | C1(CC1)C1=CC(=C(C(=C1C1=CC=C(C=C1)F)F)OCC)CN1CCC(CC1)N1C(C=2C=C(C(=NC2CC1)CC)C(=O)OC)=O | C35H39F2N3O4
reactant | hydrochloric acid | 1M | Cl | ClH
solvent | methanol | 20 mL | CO | CH4O
product | 6-(1-((6-Cyclopropyl-3-ethoxy-2,4′-difluorobiphenyl-4-yl)methyl)piperidin-4-yl)-2-ethyl-5-oxo-5,6,7,8-tetrahydro-1,6-naphthyridine-3-carboxylic acid | 6.24 g | C1(CC1)C1=CC(=C(C(=C1C1=CC=C(C=C1)F)F)OCC)CN1CCC(CC1)N1C(C=2C=C(C(=NC2CC1)CC)C(=O)O)=O | C34H37F2N3O4
